US08067445B2
Step 6: 2-{2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester and acetyl chloride.

reactant | 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C23H28F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-{2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C25H30F3NO4
